US05302752
Ethyl 2-(4-[perfluorooctyl]phenyl)propionate (68 mg, 0.11 mmol) was dissolved in 5 mL of ethanol and 5 mL of 1N NaOH. The solution was heated to reflux for 1 hour, cooled to room temperature, poured into 30 mL of 1N HCl and extracted with three 10-mL portions of dichloromethane. Combination, drying (MgSO4), and concentration of the organic layers gave a residue which wa purified by PTLC (one 2 mm silica gel plate eluted with 15% methanol-85% dichloromethane) to give 61 mg (94% yield) of 2-(4-[perfluorooctyl]phenyl)propionic acid as a brown oil. The oil was recrystallized from dichloromethane to give brown crystals.

reactant | Ethyl 2-(4-[perfluorooctyl]phenyl)propionate | 0.11 mmol, 68 mg | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C1=CC=C(C=C1)C(C(=O)OCC)C)F | C19H13F17O2
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | 2-(4-[perfluorooctyl]phenyl)propionic acid | 61 mg, 94% yield | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C1=CC=C(C=C1)C(C(=O)O)C)F | C17H9F17O2
